* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.02000087689876829
Fd1_1 0 s1 V1 1.0000438449384146
Gr1_1_1 0 s1 x1_a1 0 -313107872126.10364
Gr2_1_1 0 s1 x2_a1 0 76212324373.27634
Gr3_re_1_1 0 s1 x3_re_a1 0 1046530794.8602396
Gr3_im_1_1 0 s1 x3_im_a1 0 -1554998412.043507
Gr4_1_1 0 s1 x4_a1 0 -232154593137.3777
Gr5_re_1_1 0 s1 x5_re_a1 0 3134686340.935473
Gr5_im_1_1 0 s1 x5_im_a1 0 2626544015.1839967
Gr6_1_1 0 s1 x6_a1 0 710815530520.742
Gr7_re_1_1 0 s1 x7_re_a1 0 75058921793.20036
Gr7_im_1_1 0 s1 x7_im_a1 0 12293112003.48075
Gr8_re_1_1 0 s1 x8_re_a1 0 -399793759831.5068
Gr8_im_1_1 0 s1 x8_im_a1 0 -336930910934.3441
Gr9_re_1_1 0 s1 x9_re_a1 0 58590240415.75842
Gr9_im_1_1 0 s1 x9_im_a1 0 -109011819563.71283
Gd1_2 0 s1 p2 0 6.373568833133966e-08
Fd1_2 0 s1 V2 3.1867844165669835e-06
Gr1_1_2 0 s1 x1_a2 0 893769878.332731
Gr2_1_2 0 s1 x2_a2 0 -10362582673.360552
Gr3_re_1_2 0 s1 x3_re_a2 0 -2192876908.719258
Gr3_im_1_2 0 s1 x3_im_a2 0 3996382021.9488106
Gr4_1_2 0 s1 x4_a2 0 7232617443.759678
Gr5_re_1_2 0 s1 x5_re_a2 0 -102616156.04897787
Gr5_im_1_2 0 s1 x5_im_a2 0 -59266271.738041505
Gr6_1_2 0 s1 x6_a2 0 -10351911120.417545
Gr7_re_1_2 0 s1 x7_re_a2 0 -2250972643.6096506
Gr7_im_1_2 0 s1 x7_im_a2 0 -134611741.03659612
Gr8_re_1_2 0 s1 x8_re_a2 0 12423158432.635149
Gr8_im_1_2 0 s1 x8_im_a2 0 9849153791.636341
Gr9_re_1_2 0 s1 x9_re_a2 0 -1588068200.0360484
Gr9_im_1_2 0 s1 x9_im_a2 0 3394823470.689113
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.085666428373867e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.009807886133281e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.5600870136784288e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143834097195.68945
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143834097195.68945
Rp3_im_im_a1 0 x3_im_a1 2.5600870136784288e-11
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.14742000284325e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 5.798367432173221e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 44624067438.758064
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -44624067438.758064
Rp5_im_im_a1 0 x5_im_a1 5.798367432173221e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 2.8990019014521882e-11
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.0597383549257844e-09
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 34059761017.722378
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -34059761017.722378
Rp7_im_im_a1 0 x7_im_a1 1.0597383549257844e-09
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 7.245874365012513e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 12677030387.702938
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -12677030387.702938
Rp8_im_im_a1 0 x8_im_a1 7.245874365012513e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 3.9398293186247934e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 21566123699.24044
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -21566123699.24044
Rp9_im_im_a1 0 x9_im_a1 3.9398293186247934e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 6.373568833133966e-08
Fd2_1 0 s2 V1 3.1867844165669835e-06
Gr1_2_1 0 s2 x1_a1 0 893769878.3327564
Gr2_2_1 0 s2 x2_a1 0 -10362582673.360615
Gr3_re_2_1 0 s2 x3_re_a1 0 -2192876908.719258
Gr3_im_2_1 0 s2 x3_im_a1 0 3996382021.9488153
Gr4_2_1 0 s2 x4_a1 0 7232617443.759787
Gr5_re_2_1 0 s2 x5_re_a1 0 -102616156.0489787
Gr5_im_2_1 0 s2 x5_im_a1 0 -59266271.738040544
Gr6_2_1 0 s2 x6_a1 0 -10351911120.417702
Gr7_re_2_1 0 s2 x7_re_a1 0 -2250972643.6096525
Gr7_im_2_1 0 s2 x7_im_a1 0 -134611741.0365794
Gr8_re_2_1 0 s2 x8_re_a1 0 12423158432.635183
Gr8_im_2_1 0 s2 x8_im_a1 0 9849153791.636312
Gr9_re_2_1 0 s2 x9_re_a1 0 -1588068200.0360343
Gr9_im_2_1 0 s2 x9_im_a1 0 3394823470.689123
Gd2_2 0 s2 p2 0 0.020000432354338717
Fd2_2 0 s2 V2 1.0000216177169359
Gr1_2_2 0 s2 x1_a2 0 -16872272872.715
Gr2_2_2 0 s2 x2_a2 0 -113787631321.12682
Gr3_re_2_2 0 s2 x3_re_a2 0 12063561691.496702
Gr3_im_2_2 0 s2 x3_im_a2 0 -17431201834.104748
Gr4_2_2 0 s2 x4_a2 0 -178324739241.19888
Gr5_re_2_2 0 s2 x5_re_a2 0 2201732138.284667
Gr5_im_2_2 0 s2 x5_im_a2 0 1369435421.6310632
Gr6_2_2 0 s2 x6_a2 0 498998476494.7277
Gr7_re_2_2 0 s2 x7_re_a2 0 48106369333.29768
Gr7_im_2_2 0 s2 x7_im_a2 0 2832524263.098373
Gr8_re_2_2 0 s2 x8_re_a2 0 -261528574811.83057
Gr8_im_2_2 0 s2 x8_im_a2 0 -204298186339.51376
Gr9_re_2_2 0 s2 x9_re_a2 0 32818817494.633194
Gr9_im_2_2 0 s2 x9_im_a2 0 -71684634129.97115
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.085666428373867e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.009807886133281e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.5600870136784288e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143834097195.68945
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143834097195.68945
Rp3_im_im_a2 0 x3_im_a2 2.5600870136784288e-11
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.14742000284325e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 5.798367432173221e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 44624067438.758064
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -44624067438.758064
Rp5_im_im_a2 0 x5_im_a2 5.798367432173221e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 2.8990019014521882e-11
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.0597383549257844e-09
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 34059761017.722378
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -34059761017.722378
Rp7_im_im_a2 0 x7_im_a2 1.0597383549257844e-09
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 7.245874365012513e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 12677030387.702938
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -12677030387.702938
Rp8_im_im_a2 0 x8_im_a2 7.245874365012513e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 3.9398293186247934e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 21566123699.24044
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -21566123699.24044
Rp9_im_im_a2 0 x9_im_a2 3.9398293186247934e-10
.ENDS s_equivalent
