* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.020000087965696654
Fd1_1 0 s1 V1 1.0000043982848328
Gr1_1_1 0 s1 x1_a1 0 -65287327443175.22
Gr2_1_1 0 s1 x2_a1 0 -2155609964716.6782
Gr3_re_1_1 0 s1 x3_re_a1 0 -305351063156282.25
Gr3_im_1_1 0 s1 x3_im_a1 0 83074431647974.02
Gr4_1_1 0 s1 x4_a1 0 1030905851656911.0
Gr5_1_1 0 s1 x5_a1 0 -353041904270224.9
Gd1_2 0 s1 p2 0 9.682077314023382e-09
Fd1_2 0 s1 V2 4.841038657011691e-07
Gr1_1_2 0 s1 x1_a2 0 -59419468278.69258
Gr2_1_2 0 s1 x2_a2 0 355982735978.5503
Gr3_re_1_2 0 s1 x3_re_a2 0 -51174129897.12962
Gr3_im_1_2 0 s1 x3_im_a2 0 -107009849611.26172
Gr4_1_2 0 s1 x4_a2 0 -255691842111.75372
Gr5_1_2 0 s1 x5_a2 0 61476497574.35507
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.0857727569693205e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.0096929551415216e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.56008569408258e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143834454960.839
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143834454960.839
Rp3_im_im_a1 0 x3_im_a1 2.56008569408258e-11
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.8990018015229418e-11
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 7.814825607717972e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 9.682077314023382e-09
Fd2_1 0 s2 V1 4.841038657011691e-07
Gr1_2_1 0 s2 x1_a1 0 -59419468271.4434
Gr2_2_1 0 s2 x2_a1 0 355982735886.2026
Gr3_re_2_1 0 s2 x3_re_a1 0 -51174129921.935585
Gr3_im_2_1 0 s2 x3_im_a1 0 -107009849573.09305
Gr4_2_1 0 s2 x4_a1 0 -255691841918.53363
Gr5_2_1 0 s2 x5_a1 0 61476497515.845406
Gd2_2 0 s2 p2 0 0.020000002790247454
Fd2_2 0 s2 V2 1.0000001395123728
Gr1_2_2 0 s2 x1_a2 0 -184050177593953.44
Gr2_2_2 0 s2 x2_a2 0 1513822350194224.2
Gr3_re_2_2 0 s2 x3_re_a2 0 102907360168207.95
Gr3_im_2_2 0 s2 x3_im_a2 0 -543458321005151.4
Gr4_2_2 0 s2 x4_a2 0 -2144400564318928.0
Gr5_2_2 0 s2 x5_a2 0 608669571033118.0
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.0857727569693205e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.0096929551415216e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.56008569408258e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143834454960.839
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143834454960.839
Rp3_im_im_a2 0 x3_im_a2 2.56008569408258e-11
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.8990018015229418e-11
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 7.814825607717972e-11
.ENDS s_equivalent
