* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.020000052851974422
Fd1_1 0 s1 V1 1.0000026425987212
Gr1_1_1 0 s1 x1_a1 0 -6.6872563335636984e+16
Gr2_1_1 0 s1 x2_a1 0 1.0012966568584552e+19
Gr3_re_1_1 0 s1 x3_re_a1 0 -1.2402509621253124e+19
Gr3_im_1_1 0 s1 x3_im_a1 0 3.915905554547619e+18
Gr4_re_1_1 0 s1 x4_re_a1 0 -2.947992800482363e+20
Gr4_im_1_1 0 s1 x4_im_a1 0 5.4397126412067e+20
Gr5_1_1 0 s1 x5_a1 0 -1.2781571472419607e+21
Gr6_re_1_1 0 s1 x6_re_a1 0 9.413073161467768e+20
Gr6_im_1_1 0 s1 x6_im_a1 0 -1.750392805425648e+19
Gd1_2 0 s1 p2 0 4.116777378100245e-09
Fd1_2 0 s1 V2 2.0583886890501224e-07
Gr1_1_2 0 s1 x1_a2 0 -13701154576783.795
Gr2_1_2 0 s1 x2_a2 0 2051914078841442.5
Gr3_re_1_2 0 s1 x3_re_a2 0 -2541936248979398.5
Gr3_im_1_2 0 s1 x3_im_a2 0 802311478706132.9
Gr4_re_1_2 0 s1 x4_re_a2 0 -6.042260099204377e+16
Gr4_im_1_2 0 s1 x4_im_a2 0 1.1148720714754626e+17
Gr5_1_2 0 s1 x5_a2 0 -2.619554920907788e+17
Gr6_re_1_2 0 s1 x6_re_a2 0 1.929231768242427e+17
Gr6_im_1_2 0 s1 x6_im_a2 0 -3587381789100873.5
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.085776687165887e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.009691198320828e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.5600854024917814e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143834475445.53323
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143834475445.53323
Rp3_im_im_a1 0 x3_im_a1 2.5600854024917814e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.1408634693544675e-08
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 38099243796.58015
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -38099243796.58015
Rp4_im_im_a1 0 x4_im_a1 1.1408634693544675e-08
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 2.899001806591264e-11
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.8804509224495655e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 12395149230.110273
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -12395149230.110273
Rp6_im_im_a1 0 x6_im_a1 1.8804509224495655e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 4.116777378100245e-09
Fd2_1 0 s2 V1 2.0583886890501224e-07
Gr1_2_1 0 s2 x1_a1 0 -13701165455011.783
Gr2_2_1 0 s2 x2_a1 0 2051914067952413.5
Gr3_re_2_1 0 s2 x3_re_a1 0 -2541934698690949.5
Gr3_im_2_1 0 s2 x3_im_a1 0 802312163604286.6
Gr4_re_2_1 0 s2 x4_re_a1 0 -6.04225543125669e+16
Gr4_im_2_1 0 s2 x4_im_a1 0 1.1148714720042554e+17
Gr5_2_1 0 s2 x5_a1 0 -2.6195536669617155e+17
Gr6_re_2_1 0 s2 x6_re_a1 0 1.929230659080573e+17
Gr6_im_2_1 0 s2 x6_im_a1 0 -3587380116001231.5
Gd2_2 0 s2 p2 0 0.020000010991897202
Fd2_2 0 s2 V2 1.00000054959486
Gr1_2_2 0 s2 x1_a2 0 -6.685794298060346e+16
Gr2_2_2 0 s2 x2_a2 0 1.0014562421239273e+19
Gr3_re_2_2 0 s2 x3_re_a2 0 -1.2407868892994454e+19
Gr3_im_2_2 0 s2 x3_im_a2 0 3.9150883295867264e+18
Gr4_re_2_2 0 s2 x4_re_a2 0 -2.949461997440042e+20
Gr4_im_2_2 0 s2 x4_im_a2 0 5.4418714564591426e+20
Gr5_2_2 0 s2 x5_a2 0 -1.2786311454728868e+21
Gr6_re_2_2 0 s2 x6_re_a2 0 9.416957890630767e+20
Gr6_im_2_2 0 s2 x6_im_a2 0 -1.7510323807166347e+19
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.085776687165887e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.009691198320828e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.5600854024917814e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143834475445.53323
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143834475445.53323
Rp3_im_im_a2 0 x3_im_a2 2.5600854024917814e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.1408634693544675e-08
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 38099243796.58015
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -38099243796.58015
Rp4_im_im_a2 0 x4_im_a2 1.1408634693544675e-08
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 2.899001806591264e-11
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.8804509224495655e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 12395149230.110273
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -12395149230.110273
Rp6_im_im_a2 0 x6_im_a2 1.8804509224495655e-09
.ENDS s_equivalent
