* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.02000000448255755
Fd1_1 0 s1 V1 1.0000002241278776
Gr1_1_1 0 s1 x1_a1 0 -288393965758.8803
Gr2_re_1_1 0 s1 x2_re_a1 0 2775577794.4545736
Gr2_im_1_1 0 s1 x2_im_a1 0 -68329214529.32858
Gr3_re_1_1 0 s1 x3_re_a1 0 0.17848659287466798
Gr3_im_1_1 0 s1 x3_im_a1 0 -0.04561183784011346
Gr4_re_1_1 0 s1 x4_re_a1 0 -0.005492003456584948
Gr4_im_1_1 0 s1 x4_im_a1 0 0.002931259297854449
Gr5_re_1_1 0 s1 x5_re_a1 0 0.007256900269294505
Gr5_im_1_1 0 s1 x5_im_a1 0 -0.015468234904534544
Gd1_2 0 s1 p2 0 3.243862784311583e-09
Fd1_2 0 s1 V2 1.6219313921557915e-07
Gr1_1_2 0 s1 x1_a2 0 67282855294.12005
Gr2_re_1_2 0 s1 x2_re_a2 0 -33641457232.17085
Gr2_im_1_2 0 s1 x2_im_a2 0 -62285964598.38306
Gr3_re_1_2 0 s1 x3_re_a2 0 -0.242517913204458
Gr3_im_1_2 0 s1 x3_im_a2 0 0.00023309801454492158
Gr4_re_1_2 0 s1 x4_re_a2 0 -0.05507205377612552
Gr4_im_1_2 0 s1 x4_im_a2 0 -0.055252255149938014
Gr5_re_1_2 0 s1 x5_re_a2 0 0.10706302507541185
Gr5_im_1_2 0 s1 x5_im_a2 0 -0.05036067843362889
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3341818549422906e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.770599119662884e-12
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 137795584999.90997
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -137795584999.90997
Rp2_im_im_a1 0 x2_im_a1 5.770599119662884e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 3.856624827062799e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 55322242905.95246
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -55322242905.95246
Rp3_im_im_a1 0 x3_im_a1 3.856624827062799e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.1891093536706428e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 30585009809.17934
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -30585009809.17934
Rp4_im_im_a1 0 x4_im_a1 1.1891093536706428e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 6.616671062265692e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 13286474656.717043
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -13286474656.717043
Rp5_im_im_a1 0 x5_im_a1 6.616671062265692e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 3.243862784311583e-09
Fd2_1 0 s2 V1 1.6219313921557915e-07
Gr1_2_1 0 s2 x1_a1 0 67282855294.12005
Gr2_re_2_1 0 s2 x2_re_a1 0 -33641457232.17085
Gr2_im_2_1 0 s2 x2_im_a1 0 -62285964598.38306
Gr3_re_2_1 0 s2 x3_re_a1 0 -0.242517913204458
Gr3_im_2_1 0 s2 x3_im_a1 0 0.00023309801454492158
Gr4_re_2_1 0 s2 x4_re_a1 0 -0.05507205377612552
Gr4_im_2_1 0 s2 x4_im_a1 0 -0.055252255149938014
Gr5_re_2_1 0 s2 x5_re_a1 0 0.10706302507541185
Gr5_im_2_1 0 s2 x5_im_a1 0 -0.05036067843362889
Gd2_2 0 s2 p2 0 0.02000000909099148
Fd2_2 0 s2 V2 1.0000004545495742
Gr1_2_2 0 s2 x1_a2 0 -15697516825.45185
Gr2_re_2_2 0 s2 x2_re_a2 0 -62861987861.05077
Gr2_im_2_2 0 s2 x2_im_a2 0 -37660531882.552605
Gr3_re_2_2 0 s2 x3_re_a2 0 -0.10800854767544389
Gr3_im_2_2 0 s2 x3_im_a2 0 0.1273942386640628
Gr4_re_2_2 0 s2 x4_re_a2 0 0.008091498071802372
Gr4_im_2_2 0 s2 x4_im_a2 0 0.01168093089461847
Gr5_re_2_2 0 s2 x5_re_a2 0 -0.017622674370539302
Gr5_im_2_2 0 s2 x5_im_a2 0 0.016205934999126967
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3341818549422906e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.770599119662884e-12
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 137795584999.90997
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -137795584999.90997
Rp2_im_im_a2 0 x2_im_a2 5.770599119662884e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 3.856624827062799e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 55322242905.95246
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -55322242905.95246
Rp3_im_im_a2 0 x3_im_a2 3.856624827062799e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.1891093536706428e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 30585009809.17934
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -30585009809.17934
Rp4_im_im_a2 0 x4_im_a2 1.1891093536706428e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 6.616671062265692e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 13286474656.717043
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -13286474656.717043
Rp5_im_im_a2 0 x5_im_a2 6.616671062265692e-10
.ENDS s_equivalent
